US06166006
To a solution of methyl 4-[1-(4-methylphenylsulfonyl)piperidin-4-yl]-6,7-dihydro-5H-benzocyclo-heptene-8-carboxylate (1.0 g) in ethanol/THF (20/40 ml) was added at room temperature IN sodium hydroxide solution (2.7 ml), and the mixture was stirred for 13 hours. Under reduced pressure, the mixture was concentrated. To the mixture was added water, and the mixture was washed with ethyl acetate. To the aqueous layer was added 1N hydrochloric acid (5 ml), and the mixture was extracted with ethyl acetate/THF. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the resulting colorless crystals were collected by filtration, which were washed with hexane to give colorless crystals of 4-[1-(4-methylphenylsulfonyl)piperidin-4-yl]-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid (565.4 mg).

reactant | methyl 4-[1-(4-methylphenylsulfonyl)piperidin-4-yl]-6,7-dihydro-5H-benzocyclo-heptene-8-carboxylate | 1.0 g | CC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C1=CC=CC=2C=C(CCCC21)C(=O)OC | C25H29NO4S
solvent | ethanol THF | 40 ml | C(C)O.C1CCOC1
solvent | sodium hydroxide | 2.7 ml | [OH-].[Na+]
product | 4-[1-(4-methylphenylsulfonyl)piperidin-4-yl]-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid | 565.4 mg | CC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C1=CC=CC=2C=C(CCCC21)C(=O)O | C24H27NO4S
